US06749644B2
D. Synthesis of 2-Hydroxy-5-aminobiphenyl Hydrochloride
This gave 0.5 g (17% of the theoretical) of 2-hydroxy-5-aminobiphenyl [Sic—The hydrochloride seems to be meant—Translator] with a melting point of 130-132° C.

reactant | 2-hydroxy-5-aminobiphenyl | OC1=C(C=C(C=C1)N)C1=CC=CC=C1 | C12H11NO
reactant | hydrochloride | Cl | ClH
product | 2-Hydroxy-5-aminobiphenyl Hydrochloride | Cl.OC1=C(C=C(C=C1)N)C1=CC=CC=C1 | InChI=1S/C12H11NO.ClH/c13-10-6-7-12(14)11(8-10)9-4-2-1-3-5-9;/h1-8,14H,13H2;1H
